US03996374
A solution of 15.2 g. of 1,3-dihydro-5-(α,α,α-trifluoro-m-tolyl)-2H-1,4-benzodiazepin-2-one in 360ml. of acetone is treated with 7.5 ml. of dimethylsulfate and 45 g. of finely triturated, dry potassium carbonate and stirred intensively at room temperature for 15 hours. The mixture is then poured into 400 ml. of ice-water, the acetone is evaporated under reduced pressure and the separated oil extracted with methylene chloride. The extract is washed with water, dried over sodium sulfate and evaporated to dryness. The resulting oil crystallizes on trituration with hexane, and there is obtained 1,3-dihydro-1-methyl-5-(α,α,α-trifluoro-m-tolyl)-2H-1,4-benzodiazepin-2-one having a melting point of 117°-119° C., which can be employed in the next stage without further purification. A sample for analysis is obtained by crystallization from ethanol; melting point 121°-122° C.

reactant | 1,3-dihydro-5-(α,α,α-trifluoro-m-tolyl)-2H-1,4-benzodiazepin-2-one | FC(C1=CC(=CC=C1)C1=NCC(NC2=C1C=CC=C2)=O)(F)F | C16H11F3N2O
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
solvent | acetone | CC(=O)C | C3H6O
product | 1,3-dihydro-1-methyl-5-(α,α,α-trifluoro-m-tolyl)-2H-1,4-benzodiazepin-2-one | CN1C(CN=C(C2=C1C=CC=C2)C=2C=C(C=CC2)C(F)(F)F)=O | C17H13F3N2O
